US07115611B2
B] 2-(3-Aminomethyl-phenoxy)-2-methyl-propionic acid ethyl ester
8.56 g (36.7 mmol) of 2-(3-cyano-phenoxy)-2-methyl-propionic acid ethyl ester was dissolved in 65 ml ethanol; then, 6.5 ml acetic acid was added, followed by 0.9 g Pd—C (10%) and the reaction mixture was hydrogenated under 1 atm of H2-pressure during 5 hours. Then, it was filtered (Celite), the filter cake was washed twice with ethanol and the solvents were evaporated. The residue was partitioned between crashed ice/1N NaOH/EtOAc and extracted twice with EtOAc; the organic phases were washed with water, dried (MgSO4) and evaporated. The crude product was purified by flash chromatography (SiO2, MeCl2/MeOH) to give 7.71 g of the title compound as colorless oil.

reactant | 2-(3-cyano-phenoxy)-2-methyl-propionic acid ethyl ester | 36.7 mmol, 8.56 g | C(C)OC(C(C)(C)OC1=CC(=CC=C1)C#N)=O | C13H15NO3
reactant | acetic acid | 6.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 65 ml | C(C)O | C2H6O
catalyst | Pd—C | 0.9 g | [Pd] | Pd
product | 2-(3-Aminomethyl-phenoxy)-2-methyl-propionic acid ethyl ester | 7.71 g | C(C)OC(C(C)(C)OC1=CC(=CC=C1)CN)=O | C13H19NO3
